* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\mezclador_jfet.asc
J1 N002 N005 N006 2N3819
R1 N008 0 146
V1 N001 0 12
L1 N006 N008 1e-6
C1 N006 N008 209.3e-12
C2 N008 0 10µ
C3 N007 N006 10µ
V2 N007 0 SINE(0 0.5 11e6)
V3 N003 0 SINE(0 10e-6 10e6)
R2 N004 N003 1k
C4 N005 N004 10µ
C5 N005 0 253.3e-12
L2 N005 0 1e-6
L3 N001 N002 15.91e-6
C6 N001 N002 1.59e-9
R3 N001 N002 10k
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.tran 10u
.backanno
.end
